US05739377
2-Methoxyethyl 3-(3,5-di-t-butyl-4-hydroxyphenyl)propionate
The title compound was prepared from 90 g of toluene, 102.4 g of methyl 3-(3,5-di-t-butyl-4-hydroxyphenyl)-propionate, 18.2 g of ethylene glycol monomethyl ether and 0.35 g of sodium methoxide, by a procedure analogous to that of Example 10. Yield 42.2 g. Melting point 62°-64° C.

reactant | toluene | 90 g | C1(=CC=CC=C1)C | C7H8
reactant | methyl 3-(3,5-di-t-butyl-4-hydroxyphenyl)-propionate | 102.4 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OC | C18H28O3
reactant | sodium methoxide | 0.35 g | C[O-].[Na+]
reactant | ethylene glycol monomethyl ether | 18.2 g | COCCO | C3H8O2
product | 2-Methoxyethyl 3-(3,5-di-t-butyl-4-hydroxyphenyl)propionate | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OCCOC | C20H32O4
